US07781431B2
Step 3: ethyl 4-[(tert-butoxycarbonyl)amino]thiophene-2-carboxylate
A solution (0.2 M) of ethyl 4-(acetylamino)thiophene-2-carboxylate in DCM was treated with Boc2O (1.2 eq.), Et3N (1.5 eq.) and DMAP (0.1 eq.). The solution was stirred at RT for 24 h. The solvent was partially evaporated, then the residue was diluted with AcOEt and washed sequentially with aqueous HCl (1 N), aqueous NaHCO3 (saturated solution) and brine. The organic phase was separated and dried then concentrated to give an oil that was dissolved in EtOH. The resulting solution (0.2 M) was treated with aqueous hydrazine (1.5 eq., 35% solution) then heated to reflux for 3 h. After cooling down, evaporation of the solvent gave a residue which was dissolved in AcOEt then washed sequentially with aqueous HCl (1 N), aqueous NaHCO3 (saturated solution) and brine. The organic phase was separated and dried then concentrated to afford the title compound (66%) as a mixture 1:1 of 4-(tertbutoxycarbonyl)amino and 5-(tert-butoxycarbonyl)amino regioisomers that was used as such in the following step.

reactant | ethyl 4-(acetylamino)thiophene-2-carboxylate | 0.2 M | C(C)(=O)NC=1C=C(SC1)C(=O)OCC | C9H11NO3S
reactant | Boc2O | 1.2 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 1.5 eq. | CCN(CC)CC | C6H15N
reactant | hydrazine | 1.5 eq. | NN | H4N2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.1 eq. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOH | CCO | C2H6O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | ethyl 4-[(tert-butoxycarbonyl)amino]thiophene-2-carboxylate | 66% | C(C)(C)(C)OC(=O)NC=1C=C(SC1)C(=O)OCC | C12H17NO4S
